US07390904B2
2-Chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine
A solution of 0.188 g (0.676 mmol) of ferrous sulfate heptahydrate and 0.25 g (2.6 mmol) of methanesulfonic acid in 2 ml of water is added to a mixture of 5.00 g (8.83 mmol) of 2-chloro-4,6-bis[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine, 29 ml of acetonitrile, and 18 ml of cyclohexane. The reaction mixture is heated to 52° C. A solution of 4.87 g (72 mmol) of 50% aqueous hydrogen peroxide is added dropwise to the reaction mixture over 2.25 hours while the temperature is brought to and maintained at 62° C. After the peroxide is added, the reaction mixture is stirred at reflux for 45 minutes, then cooled prior to decomposing residual peroxide with aqueous sodium sulfite. Work-up and purification according to the procedure of Example 5 afford 3.23 g (50% yield) of the title compound, a white glass. Structure is verified by NMR and ms analysis.

reactant | methanesulfonic acid | 2.6 mmol, 0.25 g | CS(=O)(=O)O | CH4O3S
reactant | 2-chloro-4,6-bis[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | 8.83 mmol, 5.00 g | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)O)(C)C)NCCCCC1CC(N(C(C1)(C)C)O)(C)C | C29H54ClN7O2
reactant | hydrogen peroxide | 72 mmol, 4.87 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | cyclohexane | 18 ml | C1CCCCC1 | C6H12
solvent | water | 2 ml | O | H2O
solvent | acetonitrile | 29 ml | C(C)#N | C2H3N
product | 2-Chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | 3.23 g, 50% yield | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C41H74ClN7O2
